US09163003B2
4-Oxo-tetrahydro-pyran-3-carboxylic acid methyl ester
To a solution of tetrahydro-pyran-4-one (1.3 kg, 12.98 mol) and carbonic acid dimethyl ester (11.69 kg, 129.8 mol) was added solid potassium tert-butoxide (1.89 kg, 16.08 mol) in portions at −10° C. over 2 h under nitrogen protection. The suspension was stirred at room temperature 10 h after the addition. LCMS (215 nm) indicated that tetrahydro-pyran-4-one had been completely consumed. The reaction was acidified by HCl (2 N) to pH 6˜7 and then the phases were separated. The organic phase was washed with water (3 L×2) and the combined aqueous phases were extracted with MTBE (2.5 L×2). The combined organic phase was concentrated under reduced pressure at 25° C. to remove most of MTBE. The residue was distilled out by oil pump (˜200 Pa) at 74° C. to give the title compound as colorless oil (545 g, 26.3%). CHN analysis: calculated (results). C, 53.16 (53.10), H, 6.37 (6.245), N, 0.00 (0.00).

reactant | tetrahydro-pyran-4-one | 12.98 mol, 1.3 kg | O1CCC(CC1)=O | C5H8O2
reactant | carbonic acid dimethyl ester | 129.8 mol, 11.69 kg | COC(OC)=O | C3H6O3
reactant | potassium tert-butoxide | 16.08 mol, 1.89 kg | CC(C)([O-])C.[K+]
product | 4-Oxo-tetrahydro-pyran-3-carboxylic acid methyl ester | 545 g, 26.3% | COC(=O)C1COCCC1=O | C7H10O4
